US08138345B2
Preparation of 4-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)butyric Acid
To a stirred solution of 4-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionyl}methylamino)butyric acid methyl ester (1.00 g, 2.08 mmol) in THF (10 mL) was added dropwise aqueous sodium hydroxide (1.0 M, 10.4 mL, 10.4 mmol) and the reaction mixture was stirred overnight at room temperature. LC-MS (Method 10-90) showed product was present (Rt 3.34 min; m/z 468.2 [M+H]+). The pH of the mixture was adjusted to pH 5 with aqueous hydrochloric acid (6 M) and the mixture was concentrated under reduced pressure. Aqueous ammonium chloride solution was added to the residue and this mixture was washed with EtOAc. The pH of the aqueous layer was adjusted to pH 4 with phosphate buffer solution and the aqueous layer was then extracted with a 1:3 mixture of isopropyl acetate/chloroform (4×). The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound as a colorless oil, which was used without further purification.

reactant | 4-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionyl}methylamino)butyric acid methyl ester | 2.08 mmol, 1.00 g | COC(CCCNCC(CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O)=O | C27H35N3O5
reactant | sodium hydroxide | 10.4 mmol, 1.0 M, 10.4 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)butyric Acid | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)CNCCCC(=O)O)C1=CC=CC=C1 | C26H33N3O5
